US05114944
2-(4-Chlorophenyl)pyrazolo[1.5-a]pyrimidine-3-acetic acid ethyl ester
A suspension of 23.0 g (0.057 mole) of 3-amino-5-(4-chlorophenyl)-1H-pyrazole-4-acetic acid butyl ester ethanedioate and 9.6 g (0.057 mole) of malonaldehyde bis(dimethylacetal) (99%) in 250 ml of absolute ethanol was treated with 5 ml of concentrated hydrochloric acid and 10 ml of water.

reactant | 3-amino-5-(4-chlorophenyl)-1H-pyrazole-4-acetic acid butyl ester ethanedioate | 0.057 mole, 23.0 g | C(C(=O)O)(=O)O.C(CCC)OC(CC=1C(=NNC1C1=CC=C(C=C1)Cl)N)=O
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | water | 10 ml | O | H2O
reactant | ethanol | 250 ml | C(C)O | C2H6O
product | 2-(4-Chlorophenyl)pyrazolo[1.5-a]pyrimidine-3-acetic acid ethyl ester | C(C)OC(CC=1C(=NN2C1N=CC=C2)C2=CC=C(C=C2)Cl)=O | C16H14ClN3O2
